US05247042
To a solution 30.3 g (0.1 mole) of N-acetoxyhexyl-1,2,3,4-tetrahydroquinoline-6-carboxaldehyde in dimethylformamide is added 7.4 g (0.2 mole) of 1,3-dioxolan-2-ylmethyltributylphosphonium bromide in dimethylformamide with magnetic stirring, and the mixture is heated at 90° C. Potassium t-butoxide (22.4 g, 0.2 mole) is added, and heating is continued at 90° C. for 16 hours. After cooling to room temperature, the solution is poured into a seven-fold excess of water. The aqueous mixture is saturated with sodium chloride, and the mixture is extracted with three portions of ether. The combined organics are dried over 4A sieves, filtered through cotton, and evaporated. The crude reaction product is then dissolved in 3M HCl, and the reaction is stirred at room temperature for 16 hours. After careful neutralization with saturated sodium bicarbonate, the aqueous mixture is extracted with three portions of ether, and the combined organics are passed through silica gel, dried over 4A sieves, filtered through cotton, and evaporated to yield 3-(N-hydroxyhexyl-1,2,3,4-tetrahydroquinolin-6-yl)acrolein.

reactant | N-acetoxyhexyl-1,2,3,4-tetrahydroquinoline-6-carboxaldehyde | 0.1 mole, 30.3 g | C(C)(=O)OCCCCCCN1CCCC2=CC(=CC=C12)C=O | C18H25NO3
reactant | 1,3-dioxolan-2-ylmethyltributylphosphonium bromide | 0.2 mole, 7.4 g | [Br-].O1C(OCC1)C[P+](CCCC)(CCCC)CCCC
reactant | Potassium t-butoxide | 0.2 mole, 22.4 g | CC(C)([O-])C.[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | HCl | 3M | Cl | ClH
solvent | water | O | H2O
product | 3-(N-hydroxyhexyl-1,2,3,4-tetrahydroquinolin-6-yl)acrolein | OCCCCCCN1CCCC2=CC(=CC=C12)C=CC=O | C18H25NO2
